US03969404
2,5-Dichloro-4-bromo-phenol was hydroxymethylated in alkaline aqueous solution with excess formalin at 40°C, using a procedure analogous to that described in U.S. Pat. No. 2,631,169 to produce 2-hydroxy-3,6-dichloro-5-bromo-benzyl alcohol.

reactant | 2,5-Dichloro-4-bromo-phenol | ClC1=C(C=C(C(=C1)Br)Cl)O | C6H3BrCl2O
reactant | formalin | C=O | CH2O
product | 2-hydroxy-3,6-dichloro-5-bromo-benzyl alcohol | OC1=C(CO)C(=C(C=C1Cl)Br)Cl | C7H5BrCl2O2
